US05567699
Synthesis of 3,6-dihydro-5-[4-(4-pyridylamino)phenyl]-2H-1,3,4-thiadiazine-2-one
To a N-methyl-2-pyrrolidone solution (3 mL) containing 5-(4-aminophenyl)-2H-1,3,4-thiadiazine-2-one (0.27 g), triethylamine (90 μL) and 4-chloropyridine hydrochloride (0.20 g) were added in this order by heating at 100° C. with stirring, followed by further stirring with the temperature maintained for four hours. The reacted mixture was cooled and diluted with acetone (10 mL) and ether (15 mL). The precipitated crystal was separated by filtration, air-dried, dissolved in warm water (50 mL), and adjusted to pH8 with saturated potassium carbonate. The precipitated solid was separated by filtration, and purified by a silica gel column chromatography to obtain the captioned compound (0.26 g). Yield was 70.3%. melting point: 222° to 225° C. (decomposition)

reactant | N-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
reactant | 5-(4-aminophenyl)-2H-1,3,4-thiadiazine-2-one | 0.27 g | NC1=CC=C(C=C1)C=1N=NC(SC1)=O | C9H7N3OS
reactant | triethylamine | 90 μL | C(C)N(CC)CC | C6H15N
reactant | 4-chloropyridine hydrochloride | 0.20 g | Cl.ClC1=CC=NC=C1
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | ether | 15 mL | CCOCC | C4H10O
product | 3,6-dihydro-5-[4-(4-pyridylamino)phenyl]-2H-1,3,4-thiadiazine-2-one | 0.26 g, Yield was 70.3% | N1=CC=C(C=C1)NC1=CC=C(C=C1)C1=NNC(SC1)=O | C14H12N4OS
